US04128548
2,2-Dimethyl-4-(p-methoxyphenyl)-3-(N-methyl-p-toluenesulfonamido)butyryl chloride
A mixture of 283 g of 2,2-dimethyl-4-(p-methoxyphenyl)-3-(N-methyl-p-toluenesulfonamido)butyric acid, 1500 ml of dry benzene and 430 ml of thionyl chloride is boiled for 3 hours. After removal of volatile material by evaporation in vacuo, the residue is taken up in toluene and the solvent is evaporated in vacuo. This procedure is repeated twice whereafter crystallization of the initially oily product is accomplished by treatment with ether, melting point 110°-111° C.

reactant | 2,2-dimethyl-4-(p-methoxyphenyl)-3-(N-methyl-p-toluenesulfonamido)butyric acid | 283 g | CC(C(=O)O)(C(CC1=CC=C(C=C1)OC)N(S(=O)(=O)C1=CC=C(C=C1)C)C)C | C21H27NO5S
reactant | thionyl chloride | 430 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 1500 ml | C1=CC=CC=C1 | C6H6
product | 2,2-Dimethyl-4-(p-methoxyphenyl)-3-(N-methyl-p-toluenesulfonamido)butyryl chloride | CC(C(=O)Cl)(C(CC1=CC=C(C=C1)OC)N(S(=O)(=O)C1=CC=C(C=C1)C)C)C | C21H26ClNO4S
